Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Levaquin / Keflex / Ceclor
 
Attending: ___.
 
Chief Complaint:
Papillary thyroid cancer, left thyroid.

 
Major Surgical or Invasive Procedure:
Total thyroidectomy.

 
History of Present Illness:
The patient underwent a CT after a fall and some calcifications 
were seen in her thyroid.  She then saw ___ MD who 
biopsied a worrisome left thyroid nodule and this showed 
papillary thyroid carcinoma. At the same time a level lll node 
was biopsied but that was negative.  The patient also had 
nodules in the right lobe one of which was over 2 cm and was not 
biopsied because ___ MD was already biopsing the left 
side and the lymph node.
There is no known family history of thyroid malignancy or other 
endocrine neoplasia. The patient has no mechanical symptoms from 
this problem such as pressure or difficulty swallowing, There is 
no history of exposure to low dose ionizing radiation such as 
was formerly used for thymic enlargment, acne, ringworm, or 
chronic tonsillitis. 

She is on the heavy side but I can feel the left sided nodule 
and the right is nodular. There was no regional adenopathy. On 
indirect layngoscopy the cords were seen to be moving normally. 
I did an in office ultrasound and saw the nodules on both sides 
with calcifications in the left.
The patient and I had a good discussion about the proposed 
surgery which is total thyroidectomy.  

The customary risks associated with thyroid surgery were 
mentioned even though they are infrequent, namely temporary or 
permanent voice change, and parathyroid issues if a total 
thyroidectomy is performed, as well as risks of surgery in 
general such as bleeding and infection.  Additionally, the
patient was provided with prepared literature about thyroid 
surgery. This contains the operative steps in some detail, as 
well as the general preoperative, and postoperative care 
instructions, and again mentions the associated risks, and 
measures taken to reduce complications.

 
Past Medical History:
PMH:
none

 
Social History:
___ teacher ___. 

 
Physical Exam:
GEN: ___ in NAD
HEENT: NCAT, EOMI, anicteric, steri strips on neck incision,
C/D/I no incisional swelling, erythema, induration
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness,

 
Pertinent Results:
___ 06:30AM BLOOD Calcium-8.8
___ 09:05PM BLOOD Calcium-8.7
___ 06:30AM BLOOD PTH-17
___ 12:55PM BLOOD PTH-14*
 
Brief Hospital Course:
___ s/p total thyroid for left papillary carcinoma, right 
thyroid nodule.She tolerated the procedure well without 
complications (Please see operative note for further details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.

Neuro: Pain was well controlled on Tylenol and ibuprofen.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially started on a clear liquid diet 
after the procedure. The patient was later advanced to and 
tolerated a regular diet at time of discharge. 
GU: Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.
Endocrine:Pod#1, patient was started on thyroid hormone 
replacement, Levothyroxine 175 mcg daily. Calcium level was 
normal. Patient had no signs or symptoms of hypocalcemia.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever.
Heme: ___ dyne boots were used during this stay and she was 
encouraged to get up and ambulate as early as possible. 
 
Medications on Admission:
Active Medication list as of ___:
Medications - OTC
OMEPRAZOLE MAGNESIUM [PRILOSEC OTC] - Prilosec OTC 20 mg 
tablet,delayed release. 1 tablet(s) by mouth once a day -  
(Prescribed by Other Provider)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Papillary thyroid cancer, left thyroid.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted to ___ overnight for observation following 
your total thyroidectomy. You did well postoperatively and were 
discharged home once you were eating, on oral medications, 
walking, and completing daily activities as normal. 

Medications: You may resume all your regular home medication. 
Your were started on thyroid hormone replacement (Levothyroxine) 
please take as prescribed.Your calcium level is normal at 
discharge and no calcium supplement is needed. However, monitor 
for symptoms of low calcium as listed below.

Symptoms of Low calcium: Please monitor for symptoms of low 
calcium such as numbness and tingling around your mouth, 
fingertips or toes. If you experience any of these symptoms 
please call Dr. ___ and if you have severe 
symptoms go to emergency room.

Wound care:You may shower normally. Allow warm soapy water to 
run over the wound, rinse and pat dry gently. There is no need 
to keep a dressing over the wound. Do not apply creams or 
ointments. Do not submerge the wound in a swimming pool or bath 
until cleared at your follow up visit. Do  not pull off the 
steri strip tapes--these will fall off by themselves over the 
next ___ weeks.

Diet:You may resume your regular home diet without restriction. 
You should stick to foods that do not upset your stomach. You 
may need to start with small meals first and may not feel very 
hungry at first. This will improve over time. You may supplement 
your diet with protein shakes as needed if you do not feel you 
are taking in enough nutrition.

Activity:You may resume all of your normal home activities, 
except for straining or lifting heavy weight. We recommend you 
resume walking, exercise, bathing, per your normal regimen. 
 
Warning signs:
You should contact our clinic or return to the ED immediately if 
you experience any of the following signs or symptoms:
Fever above 101.5
Worsening pain
Worsening GI upset, nausea/vomiting, diarrhea
Change in the appearance of your incision, or redness, swelling, 
or change in drainage from your incision
Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for your 
postoperative appointment following your discharge from the 
hospital. 

Best Wishes,
Your ___ Care Team

 
 
Followup Instructions:
___